### PR TITLE
bump mathlib

### PR DESCRIPTION
**Pull request by sgouezel**

### CODE REVIEW

File: PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean [hunk 1]
```diff
@@ -62,22 +62,27 @@ lemma mutualInfo_congr {κ η : Kernel T (S × U)} {μ : Measure T} (h : κ =ᵐ
     rw [snd_apply, ht, snd_apply]
   rw [entropy_congr h1, entropy_congr h2, entropy_congr h]
 
-lemma compProd_assoc (ξ : Kernel T S) [IsMarkovKernel ξ]
-    (κ : Kernel (T × S) U) [IsMarkovKernel κ] (η : Kernel (T × S × U) V) [IsMarkovKernel η] :
-    map ((ξ ⊗ₖ κ) ⊗ₖ η) MeasurableEquiv.prodAssoc MeasurableEquiv.prodAssoc.measurable
+attribute [fun_prop] MeasurableEquiv.measurable
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean:65]: Can you please move that to a new file `PFR.Mathlib.MeasureTheory.MeasurableSpace.Embedding` so that it doesn't get lost in an otherwise unrelated file? I will soon start seriously upstreaming stuff from PFR and putting things where they belong is tremendously helpful for that. Thanks!

File: PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean:1]: @RemyDegenne, maybe you are interested in having this bumped file?

File: PFR/ForMathlib/Entropy/RuzsaDist.lean [hunk 2]
```diff
@@ -363,12 +365,20 @@ lemma rdist_add_const [IsProbabilityMeasure μ] [IsProbabilityMeasure μ']
     B.rdist_eq hX' (hY'.add_const _), entropy_add_const hY' c, C, entropy_add_const]
   exact hX'.sub hY'
 
+
+@[fun_prop]
+lemma Measurable.prod' {α β δ : Type*} {_ : MeasurableSpace α} {_ : MeasurableSpace β}
+  {_ : MeasurableSpace δ} (f : α → β) (g : α → δ) (hf : Measurable f) (hg : Measurable g) :
+  Measurable (⟨f, g⟩) := hf.prod hg
+
+attribute [fun_prop] Measurable.div' Measurable.sub' Measurable.add' Measurable.mul'
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaDist.lean:374]: Similarly, can this move to `PFR.Mathlib.MeasureTheory.Group.Arithmetic`?

File: PFR/ForMathlib/Entropy/RuzsaSetDist.lean [hunk 3]
```diff
@@ -236,7 +251,7 @@ lemma rdist_set_le (A B : Set G) [Finite A] [Finite B] (hA : A.Nonempty) (hB : B
   · rw [Set.Nat.card_coe_set_eq,]
     exact Set.ncard_eq_toFinset_card (A - B)
   · exact isProbabilityMeasure_map (Measurable.aemeasurable measurable_sub)
-  rw [Measure.map_apply measurable_sub (measurableSet_discrete _)]
+  rw [Measure.map_apply measurable_sub MeasurableSet.of_discrete]
```
Comment (YaelDillies) [inline PFR/ForMathlib/Entropy/RuzsaSetDist.lean:254]:
```suggestion
  rw [Measure.map_apply measurable_sub .of_discrete]
```

File: PFR/ForMathlib/MeasureReal.lean [hunk 4]
```diff
@@ -66,7 +66,7 @@ lemma sum_measure_preimage_singleton' (μ : Measure Ω) [IsProbabilityMeasure μ
     [Fintype T] [MeasurableSpace T] [MeasurableSingletonClass T] {Y : Ω → T} (hY : Measurable Y) :
     ∑ y : T, (μ (Y ⁻¹' {y})).toReal = 1 := by
   rw [← ENNReal.toReal_sum, sum_measure_preimage_singleton] <;>
-    simp [hY $ measurableSet_discrete _, measure_ne_top]
+    simp [hY $ MeasurableSet.of_discrete, measure_ne_top]
```
Comment (YaelDillies) [inline PFR/ForMathlib/MeasureReal.lean:69]:
```suggestion
    simp [hY .of_discrete, measure_ne_top]
```

File: PFR/HundredPercent.lean [hunk 5]
```diff
@@ -88,17 +88,17 @@ lemma sub_mem_symmGroup (hX : Measurable X) (hdist : d[X # X] = 0)
         have hFY' : IndepFun F Y' := by
           have : Measurable (fun z ↦ z - c) := measurable_sub_const' c
           apply hindep.comp this measurable_id
-        rw [indepFun_iff_measure_inter_preimage_eq_mul.1 hFY' _ _ hs $ measurableSet_discrete _]
+        rw [indepFun_iff_measure_inter_preimage_eq_mul.1 hFY' _ _ hs $ .of_discrete]
```
Comment (YaelDillies) [inline PFR/HundredPercent.lean:91]:
```suggestion
        rw [indepFun_iff_measure_inter_preimage_eq_mul.1 hFY' _ _ hs .of_discrete]
```
and below

File: PFR/Mathlib/Probability/Independence/Conditional.lean [hunk 6]
```diff
@@ -198,7 +198,7 @@ lemma condIndep_copies (X : Ω → α) (Y : Ω → β) (hX : Measurable X) (hY :
     rw [h1] at hy
     have hy'' : μ (Y ⁻¹' {y}) ≠ 0 := by
       convert hy
-      exact (map_apply hY $ measurableSet_discrete _).symm
+      exact (map_apply hY $ .of_discrete).symm
```
Comment (YaelDillies) [inline PFR/Mathlib/Probability/Independence/Conditional.lean:201]:
```suggestion
      exact (map_apply hY .of_discrete).symm
```

File: PFR/Mathlib/Probability/Kernel/Composition.lean [hunk 7]
```diff
@@ -71,82 +105,112 @@ lemma deleteMiddle_compProd (ξ : Kernel α β) [IsSFiniteKernel ξ]
...
+    have : Measurable g := hfg.snd
+    rw [deleteRight_eq, map_map _ (by fun_prop) (by fun_prop)]
+    rfl
+  · have : ¬ (Measurable (fun b ↦ (f b, g b, g' b))) := by
+      contrapose! hfg
+      have T : Measurable g := hfg.snd.fst
+      have U : Measurable f := hfg.fst
+      exact U.prod T
+    simp [map_of_not_measurable _ hfg, map_of_not_measurable _ this]
+
```
Comment (YaelDillies) [inline PFR/Mathlib/Probability/Kernel/Composition.lean:151]:
```suggestion
```

File: PFR/Mathlib/Probability/Kernel/Disintegration.lean [hunk 8]
```diff
@@ -205,11 +206,13 @@ lemma condKernel_map_prod_mk_left {V : Type*} [Nonempty V] [MeasurableSpace V]
   have h_preimage : (fun p ↦ (p.1, f p)) ⁻¹' (Prod.fst ⁻¹' {x.2}) = Prod.fst ⁻¹' {x.2} := by
     ext p; simp
   rw [condKernel_apply' _ _ _, condKernel_apply' _ _ h_ne_zero]; swap
-  · rw [map_apply' _ _ _ (measurable_fst (measurableSet_singleton _)), h_preimage]
+  · rw [map_apply' _ (measurable_of_countable _) _ (measurable_fst (measurableSet_singleton _)),
+      h_preimage]
     exact h_ne_zero
-  rw [map_apply' _ _ _ (measurable_fst (measurableSet_singleton _)), h_preimage]
+  rw [map_apply' _ (measurable_of_countable _) _ (measurable_fst (measurableSet_singleton _)),
+    h_preimage]
```
Comment (YaelDillies) [inline PFR/Mathlib/Probability/Kernel/Disintegration.lean:213]: I believe this works?
```suggestion
  rw [map_apply' _ .of_discrete _ (measurable_fst (measurableSet_singleton _)), h_preimage]
```

**Review by YaelDillies — COMMENTED** [review]
Big one. Thanks!

A few minor comments

File: PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean
Comment (RemyDegenne) [reply PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean:1]: I don't get what you mean. What do you want me to do with that file?

Comment (YaelDillies) [reply PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean:1]: Do you not have a version of this file in `TestingLowerBounds`? If so, you could copy this version to avoid reoind Sébastien's work.

Comment (YaelDillies) [reply PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean:1]: Oh sorry, I commented on the wrong file. I meant the `Kernel` files

**Comment by sgouezel** [comment]
I didn't think you would look at the details of the changes :-) Thanks! Normally, all should be dealt with, let's just wait for CI to complete.

By the way, there is a `lint style` step in CI, but it's pretty easy to satisfy because its output is like
```
Run ! (find PFR -name "*.lean" -type f -exec grep -E -H -n '^.{101,}$' {} \; | grep -v -E 'https?://')
  ! (find PFR -name "*.lean" -type f -exec grep -E -H -n '^.{101,}$' {} \; | grep -v -E 'https?://')
  shell: /usr/bin/bash -e {0}
find: ‘PFR’: No such file or directory
```
do you know if something is broken there?

File: PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean
Comment (RemyDegenne) [reply PFR/ForMathlib/Entropy/Kernel/MutualInfo.lean:1]: Oh right, I get it now. No, I don't have copies of those files there, and TestingLowerBounds is already bumped. But thanks!

**Comment by YaelDillies** [comment]
There is no half-job out here ;)

That seems unfortunate. Thanks for the heads up. I will investigate.
